data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][C:21]1(C=CC=C2[C+:22]1C=CC=C2)Br.[Br-:10]>>[H:20][Br:10].C1=CC2=CC=C[C:21](=[C:22]2C=C1)Br 10=20;20,21=21,22
CC[CH:10](C)[C:11](=[N:20][O:21]S(=O)(=O)C)CC>>CC[C+:11]=[N:20][CH:10](C)CC.CS(=O)(=O)[O-:21] 10,11=10,20;20,21=21
C[CH:20]=[NH2+:21].[Br-:10]>>C[CH:20]([NH2:21])[Br:10] 10=20;20,21=21
[H:20][O:21]C(=O)C1=CC2=C3CCN(C3=CC=C2N1)C(=O)OC(C)(C)C.CCOC(=O)NN(C(=[O:10])OCC)P(C1=CC=CC=C1)(C2=CC=CC=C2)(C3=CC=CC=C3)OCCC4=CC=C(C=C4)N(=O)=O>>[H:20][O+:10]=C(N(NC(=O)OCC)P(C1=CC=CC=C1)(C2=CC=CC=C2)(C3=CC=CC=C3)OCCC4=CC=C(C=C4)N(=O)=O)OCC.CC(C)(C)OC(=O)N1CCC2=C3C=C(NC3=CC=C21)C(=O)[O-:21] 10=20;20,21=21
O[P:10](O)O.[Cl:20][Cl:21]>>O[P+:10](O)(O)[Cl:20].[Cl-:21] 10=20;20,21=21
[H:20][CH:21](C1CC2(C(N1CC)NC3=CC=CC=C32)C45CC(N(C4NC6=CC=CC=C56)CC)CO)[O:22][I+:23]7(C8=C(C=CC=C8)C(=O)O7)OC(=O)C.CC(=O)[O-:10].CC(=O)O>>[H:20][O:10]C(=O)C.CCN1C(CC2(C1NC3=CC=CC=C32)C45CC(N(C4NC6=CC=CC=C56)CC)[CH:21]=[O:22])CO.CC(=O)O[I:23]1C2=C(C=CC=C2)C(=O)O1.CC(=O)O 10=20;22,23=23;20,21=21,22
CC(C)(C)O[C:20](C)([N+:21]1=CC=C(C=C1)N(C)C)[O-:10].CC[NH+](CC)CC.CC(=O)[O-]>>C[C:20](=[O:10])OC(C)(C)C.CN(C)C1=CC=[N:21]C=C1.CC[NH+](CC)CC.CC(=O)[O-] 10=20;20,21=21
[H:20][Cl:21].CO[P:10](Cl)Cl>>[H:20][P+:10](OC)(Cl)Cl.[Cl-:21] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.C(=[O:10])C(Cl)(Cl)Cl.C1=CC=C(C=C1)Cl>>[H:20][O+:10]=CC(Cl)(Cl)Cl.OS(=O)(=O)[O-:21].C1=CC=C(C=C1)Cl 10=20;20,21=21
CCS[C:20](C)([O-:10])[O:21]C(=O)C=C>>CCS[C:20](=[O:10])C.C=CC(=O)[O-:21] 10=20;20,21=21
C[P:10](Cl)Cl.[Mg+:20]I>>C[P+:10]([Mg:20]I)(Cl)Cl 10=20,
C[CH2:20][O:21][P+:22](C)(C)C.[Cl-:10]>>C[CH2:20][Cl:10].C[P:22](=[O:21])(C)C 10=20;20,21=21,22
C[O+:11](C1=CC=CC=C1)[K:10]>>C[O:11]C1=CC=CC=C1.[K+:10] 10,11=11
[H:20][O:21]S(=O)(=O)C1=CC(=C(C=C1)O)C(=O)O.COC1=C2C3=C(CC4C5C3(CC[NH+]4CC6=CC=CC=C6)C(O2)C(=[O:10])CC5)C=C1.CO.COC=[O+]C>>[H:20][O+:10]=C1CCC2C3CC4=C5C2(C1OC5=C(C=C4)OC)CC[NH+]3CC6=CC=CC=C6.C1=CC(=C(C=C1S(=O)(=O)[O-:21])C(=O)O)O.CO.COC=[O+]C 10=20;20,21=21
[H:20][O:21]S(=O)(=O)C1=CC=C(C=C1)C.CC12CCC(C(C1CC=C)(C=C2)C)(O)[O:10]C>>[H:20][O+:10](C)C1(CCC2(C=CC1(C2CC=C)C)C)O.CC1=CC=C(C=C1)S(=O)(=O)[O-:21] 10=20;20,21=21
CC1=CCC2(CCC([C+:20]2CC1)C(C)C)C.[OH2:10].[O-]P1(=O)O[Mg]OP(=O)(O1)[O-]>>CC1=CCC2(CCC([C:20]2(CC1)[OH2+:10])C(C)C)C.[O-]P1(=O)O[Mg]OP(=O)(O1)[O-] 10=20,
[H:20][OH2+:21].B(O)[O-:10]>>[H:20][O:10]BO.[OH2:21] 10=20;20,21=21
CC(C1=CC=CC=C1)(C(=O)C2CCCC3=C(C2=O)C=CC=C3)[O:21][P:20](C4=CC=CC=C4)(C5=CC=CC=C5)(C6=CC=CC=C6)[O-:10].O>>CC(C1=CC=CC=C1)(C(=O)C2CCCC3=C(C2=O)C=CC=C3)[O-:21].C1=CC=C(C=C1)[P:20](=[O:10])(C2=CC=CC=C2)C3=CC=CC=C3.O 10=20;20,21=21
CN(C)[Si-:10](C)(C)(C)[O+:11](C)C>>CN(C)[Si:10](C)(C)C.C[O:11]C 10,11=11
[H:20][CH2:21][P+](C)(C)C.CS(=O)[CH2-:10]>>[H:20][CH2:10]S(=O)C.C[P+](C)(C)[CH2-:21] 10=20;20,21=21
[H:20][C:21]1(CCC(=CC1)C)[C+:22](C)C.[O-:10]P1(=O)O[Mg]OP(=O)(O1)[O-]>>[H:20][O:10]P1(=O)O[Mg]OP(=O)(O1)[O-].CC1=CC[C:21](=[C:22](C)C)CC1 10=20;20,21=21,22
CC1=C(S[C-:10]=[N+]1CC2=CC=CC=C2)CCO.C1=CC(=CC=C1[CH:20]=[O:21])F.CC[NH+](CC)CC.CC(=O)OCC(=O)C=C.[Cl-]>>CC1=C(S[C:10](=[N+]1CC2=CC=CC=C2)[CH:20](C3=CC=C(C=C3)F)[O-:21])CCO.CC[NH+](CC)CC.CC(=O)OCC(=O)C=C.[Cl-] 10=20;20,21=21
[CH:10]1=[CH:11]OC(=C1)[N+](=O)[O-].O[S+:20](=O)=O>>C1=C(O[CH+:11][CH:10]1[S:20](=O)(=O)O)[N+](=O)[O-] 10,11=10,20
CC(O[C:20](=[O:21])C(F)(F)F)SC1=CC=CC=C1.C1=CC=C(C=C1)[S-:10].C1=CC=[NH+]C=C1>>CC(O[C:20](C(F)(F)F)([O-:21])[S:10]C1=CC=CC=C1)SC2=CC=CC=C2.C1=CC=[NH+]C=C1 10=20;20,21=21
[B-](OC(C[CH:20]=[O+:21]C(CCO[Si](C(C)C)(C(C)C)C(C)C)C[C:11](=[CH2:10])C[Si](C)(C)C)CC1C(CCC(O1)CCOCC2=CC=CC=C2)C)(F)(F)F.CCOCC>>[B-](OC(C[CH:20]1[CH2:10][C+:11](CC([O:21]1)CCO[Si](C(C)C)(C(C)C)C(C)C)C[Si](C)(C)C)CC2C(CCC(O2)CCOCC3=CC=CC=C3)C)(F)(F)F.CCOCC 10,11=10,20;20,21=21
[H:20][O:21]S(=O)(=O)O.CCNC[CH:10]=[C:11](C)[OH:12]>>[H:20][CH:10](CNCC)[C:11](=[OH+:12])C.OS(=O)(=O)[O-:21] 10,11=10,20;20,21=21;12=11
[H:20][O:21][S+](=O)=O.[C-:10]#CCC1=CC=CC=C1>>[H:20][C:10]#CCC1=CC=CC=C1.[O-:21][S+](=O)=O 10=20;20,21=21
CC(=O)C1=C[CH:10]=[CH:11]O1.[N+:20](=O)=[O:21]>>CC(=O)C1=C[CH:10]([CH+:11]O1)[N+:20](=O)[O-:21] 10,11=10,20;20,21=21
CCOC(=O)C12C(=C)[CH:20]([NH+:21]1S(=O)(=O)C3=C2C=CC=C3)[N:10](C4=CC=CC=C4)S(=O)(=O)C5=CC=C(C=C5)C.CC1=CC=C(C=C1)S(=O)(=O)[O-].O>>CCOC(=O)C1(C2=C(C=CC=C2)S(=O)(=O)[NH:21]1)C(=C)[CH:20]=[N+:10](C3=CC=CC=C3)S(=O)(=O)C4=CC=C(C=C4)C.CC1=CC=C(C=C1)S(=O)(=O)[O-].O 10=20;20,21=21
C[CH:10]1CCCC[C:11]1=[N:20][OH2+:21].OS(=O)(=O)[O-]>>C[CH:10]1CCCC[C+:11]=[N:20]1.[OH2:21].OS(=O)(=O)[O-] 10,11=10,20;20,21=21
C[OH:10].[CH:20](=[NH2+:21])N.[Cl-]>>C[OH+:10][CH:20](N)[NH2:21].[Cl-] 10=20;20,21=21
CCC1C=CC(C(C1C(=O)N[NH2:10])CCCC#N)O.[CH3:20][I:21].C(=O)([O-])O[K].[K+]>>CCC1C=CC(C(C1C(=O)N[NH2+:10][CH3:20])CCCC#N)O.[I-:21].C(=O)([O-])O[K].[K+] 10=20;20,21=21
C[C+:20]=O.[CH:11]1=[CH:10]C2=CC=C(C=C2C=C1)C(F)(F)F>>C[C:20](=O)[CH:10]1[CH+:11]C=CC2=CC(=CC=C12)C(F)(F)F 10,11=10,20
CO[C:20](=[NH+:21]CCC[OH:10])O>>CO[C:20]1([NH:21]CCC[OH+:10]1)O 10=20;20,21=21
[H:20][C:21]1(C=CC=C[C+:22]1Br)C(C)C.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CC(C)[C:21]1=[C:22](C=CC=C1)Br 10=20;20,21=21,22
